US06894200B2
Synthesis of 6-bromo-1,2-difluoronaphthalene
Zinc (7.06 g, 108 mmol) was added to a stirred mixture of 20.0 g (71.2 mmol) of 6-bromo-1,1,2,2-tetrafluoro-1,2-dihydronaphthalene, 44 ml of THF, 20.1 g of NH4Cl and 90 ml of NH4OH that was cooled in an ice bath. The mixture was allowed to warm slowly to room temperature. After 5 hours reaction time, the zinc was removed by filtration. The phases were separated, and the aqueous layer was extracted three times with hexanes. The combined organic phase was washed twice with brine and dried over MgSO4. The MgSO4 was filtered off, and the solvent was removed under vacuum. Crude 6-bromo-1,2-difluoronaphthalene (16.4 g) containing 15% impurities (estimated) remained. The estimated yield of the crude 6-bromo-1,2-difluoronaphthalene was 85%. Recrystallization of the crude solid from methanol/water yielded light brown needles (13.6 g, 55.8 mmol, 77% yield).

reactant | 6-bromo-1,1,2,2-tetrafluoro-1,2-dihydronaphthalene | 71.2 mmol, 20.0 g | BrC=1C=C2C=CC(C(C2=CC1)(F)F)(F)F | C10H5BrF4
reactant | THF | 44 ml | C1CCOC1 | C4H8O
reactant | NH4Cl | 20.1 g | [NH4+].[Cl-]
reactant | NH4OH | 90 ml | [NH4+].[OH-]
catalyst | Zinc | 108 mmol, 7.06 g | [Zn] | Zn
solvent | methanol water | CO.O
product | 6-bromo-1,2-difluoronaphthalene | 55.8 mmol, 13.6 g, 77% yield | BrC=1C=C2C=CC(=C(C2=CC1)F)F | C10H5BrF2
